US03997536
5.2 G. of 4-chloro-5-cyano-2-(4-n-butylphenyl)-pyrimidine are reacted in 230 ml. of 50% dioxane with 21.7 g. of pre-treated zinc dust and worked up after the reaction in a manner analogous to that described in Example 13. There is obtained 5-cyano-2-(4-n-butylphenyl)-pyrimidine as colorless crystals of melting point 108.6°-109.5° C., which on cooling are nematic (monotropic) at 101.5° C. The substance is identical with the compound obtained according to Example 8.

reactant | 4-chloro-5-cyano-2-(4-n-butylphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)CCCC | C15H14ClN3
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-butylphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCC | C15H15N3
